US07897631B2
1-Pent-4-ynyl-1H-[1,2,3]triazole (0.100 g, 0.739 mmol) was reacted with (3-Azido-2-methylpropenyl)-benzene (0.154 g, 0.889 mmol) following the general procedure for click reactions outlined above to produce 1-(2-Methyl-3-phenyl-allyl)-4-(3-[1,2,3]triazol-1-yl-propyl)-1H-[1,2,3]triazole (0.227 g, Quantitative) as a white solid. 1H NMR (300 MHz, DMSO) δ 7.91 (s, 1H), δ 7.77 (s, 2H), δ 7.40-7.25 (m, 5H), δ 6.47 (s, 1H), δ 5.05 (s, 2H), δ 4.48 (t, 2H), δ 2.62 (t, 2H), δ 2.50 (t, 2H), δ 2.21 (m, 2H), δ 1.74 (s, 3H) ppm; 13C (75 MHz, DMSO) δ 146.4, 137.1, 134.8, 133.6, 132.8, 129.4, 129.3, 129.2, 128.9, 127.6, 123.0, 57.9, 54.0, 32.9, 29.6, 22.7, 16.2 ppm; HRMS (ESI) calcd for C17H21N6 (M+) 309.1822. found 309.1821.

reactant | 1-Pent-4-ynyl-1H-[1,2,3]triazole | 0.739 mmol, 0.100 g | C(CCC#C)N1N=NC=C1 | C7H9N3
reactant | (3-Azido-2-methylpropenyl)-benzene | 0.889 mmol, 0.154 g | N(=[N+]=[N-])CC(=CC1=CC=CC=C1)C | C10H11N3
product | 1-(2-Methyl-3-phenyl-allyl)-4-(3-[1,2,3]triazol-1-yl-propyl)-1H-[1,2,3]triazole | 0.227 g | CC(CN1N=NC(=C1)CCCN1N=NC=C1)=CC1=CC=CC=C1 | C17H20N6
